US04861801
50 g (0.289 mol) of α-chloro-p-fluoroacetophenone are dissolved in 900 ml of methanol. The mixture is cooled to -5° C. and 5.80 g of NaBH4 are added. It is left in contact for 1 hour then 10 ml of acetic acid are added. 151 ml of tertiary-butylamine are added and the mixture is refluxed for 12 hours. It is evaporated to dryness and the residue of evaporation is taken up in distilled water. The free base which has crystallised is filtered off and, by recrystallisation in hexane, 39 g (yield 63%) of 1-(4-fluorophenyl)-2-tertiary-butylamino-1-ethanol are obtained. m.p. 117° C.

reactant | α-chloro-p-fluoroacetophenone | 0.289 mol, 50 g | ClCC(=O)C1=CC=C(C=C1)F | C8H6ClFO
reactant | NaBH4 | 5.80 g | [BH4-].[Na+]
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | tertiary-butylamine | 151 ml | C(C)(C)(C)N | C4H11N
solvent | methanol | 900 ml | CO | CH4O
product | 1-(4-fluorophenyl)-2-tertiary-butylamino-1-ethanol | 39 g, yield 63% | FC1=CC=C(C=C1)C(CNC(C)(C)C)O | C12H18FNO
